US06130217
2-[2-[2-(4-Benzhydryl-piperazin-1-yl)-ethoxy]phenyl]-benzothiazole
1-Benzhydryl-piperazine (2.26 g, 8.98 mmol) and 2-[2-(2-bromoethoxy)phenyl]-benzothiazole (0.75 g, 2.24 mmol) were stirred in t-BuOH (20 mL) at about 50° C. under N2 (g) for 24 hours. The mixture was concentrated in vacuo and flash chromatographed on silica (15% acetone/hexanes) to afford 460 mg (41%) of the free base of the product. mp 67-72° C.; LSIMS m/z 506 (MH+).

reactant | 1-Benzhydryl-piperazine | 8.98 mmol, 2.26 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 2-[2-(2-bromoethoxy)phenyl]-benzothiazole | 2.24 mmol, 0.75 g | BrCCOC1=C(C=CC=C1)C=1SC2=C(N1)C=CC=C2 | C15H12BrNOS
solvent | t-BuOH | 20 mL | CC(C)(C)O | C4H10O
product | 2-[2-[2-(4-Benzhydryl-piperazin-1-yl)-ethoxy]phenyl]-benzothiazole | 460 mg, 41% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCOC1=C(C=CC=C1)C=1SC2=C(N1)C=CC=C2 | C32H31N3OS
